US04082706
Preparation of N-Cyclohex-1-enyl dibutylamine.
This example shows a typical preparation of an enamine of this invention using a ketone. A half mole of both cyclohexanone and di-n-butylamine in 100 ml. of benzene were refluxed for 2-3 days using a Dean Stark trap to collect the water as it formed. After about 61/2 ml. of water was collected, the benzene was stripped off, and the enamine was collected as the fraction distilling between 121°-124° C. at 7.5 mm. Hg.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | di-n-butylamine | C(CCC)NCCCC | C8H19N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Cyclohex-1-enyl dibutylamine | C1(=CCCCC1)N(CCCC)CCCC | C14H27N
